US08557805B2
7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxamide
To a solution (35 mL) of 7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid (3.3 g) in N,N-dimethylformamide were added under ice-cooling 1-hydroxybenzotriazole ammonia salt (2.0 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.5 g), and the mixture was stirred from under ice-cooling to room temperature for 15 hr. The reaction solution was concentrated under reduced pressure, water was added to the obtained residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained pale-yellow oil was crystallized from ethyl acetate to give the title compound (2.95 g, yield 90%) as pale-yellow crystals.

reactant | 7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid | 35 mL, 3.3 g | CC=1C=C(C=C2C=C(NC12)C(=O)O)OC=1C=NC(=CC1)S(=O)(=O)C | C16H14N2O5S
reactant | 1-hydroxybenzotriazole ammonia salt | 2.0 g | N.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.5 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxamide | 2.95 g, yield 90% | CC=1C=C(C=C2C=C(NC12)C(=O)N)OC=1C=NC(=CC1)S(=O)(=O)C | C16H15N3O4S
